US04342877
A mixture of p-cresol (108 g., 1.0 mole) and acetic anhydride (16.6 ml., 18.0 g., 0.18 mole) was heated at 130° C. while acetic anhydride (87 ml., 94 g., 0.92 mole) was added over a 30 minute period (a gentle exotherm slowly brought the mixture to reflux). This solution was further heated at reflux (150° C.) for one hour and then acetic acid was distilled off until the pot temperature reached 195° C. Heating of the mixture containing p-cresol acetate was discontinued and acetic anhydride (99 ml., 1.0 mole) was added. The mixture was cooled to 50° C. and anhydrous sodium acetate (131 g., 1.6 mole) was added followed by 3.0 g. of azobisisobutyronitrile (AIBN). After heating to 70° C. chlorine (49 g., 0.69 mole) was added through a gas dispersion tube below the surface of the liquid over a period of 1-2 hours while maintaining the temperature between 70°-75° C. The reaction was mildly exothermic and required some cooling. Upon completion of the chlorine addition, the p-acetoxybenzyl chloride thus obtained was converted to p-acetoxybenzyl acetate by refluxing (150° C.) the reaction mixture for 4 hours. The reaction mixture is cooled to 60°-65° C. and 10 ml. water is added to destroy remaining acetic anhydride. The temperature is controlled at 70°-75° C. while four 10 ml. portions of water are added at 30-minute intervals. The mixture is then cooled to 35° C. and drowned into 300 ml. water. After all salts are dissolved the layers are allowed to separate and the aqueous layer is discarded. Toluene (200 ml.) is added to the organic phase and the resulting solution is washed three times with water. The toluene solution then was distilled to give the following fraction.

reactant | p-cresol | 1.0 mole, 108 g | C1=CC(=CC=C1O)C | C7H8O
reactant | acetic anhydride | 0.18 mole, 16.6 ml, 18.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.92 mole, 87 ml, 94 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 1.0 mole, 99 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1.6 mole, 131 g | C(C)(=O)[O-].[Na+]
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | chlorine | 0.69 mole, 49 g | ClCl | Cl2
product | p-acetoxybenzyl chloride | C(C)(=O)OC1=CC=C(CCl)C=C1 | C9H9ClO2
